US07902367B2
Methyl 3-[3-[N-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methyl]carbamoyl]piperidin-1-yl]benzoate
N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]piperidine-3-carboxamide hydrochloride (123 mg, 0.318 mmol) was suspended in diethyl ether. The suspension washed sequentially with a 0.1 mol/L aqueous sodium hydroxide solution and brine and was dried over magnesium sulfate. The solvent was then evaporated and the resulting residue was dissolved in dichloromethane (10 mL). To this solution, 3-(methoxycarbonyl)phenylboric acid (114 mg, 0.636 mmol), molecular sieves 4 Å (300 mg), copper (II) acetate (122 mg, 0.636 mmol) and triethylamine (0.222 mL, 1.59 mmol) were added and the mixture was stirred at room temperature for 16 hours. Subsequently, the reaction mixture was filtered through Celite and a saturated aqueous sodium bicarbonate solution was added to the filtrate. The mixture was extracted with ethyl acetate. The extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=2:1->0:1) gave 20.1 mg (13%) of the desired compound as a colorless powder.

reactant | N-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methyl]piperidine-3-carboxamide hydrochloride | 0.318 mmol, 123 mg | Cl.ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CNC(=O)C1CNCCC1
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.636 mmol, 114 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
reactant | triethylamine | 1.59 mmol, 0.222 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper (II) acetate | 0.636 mmol, 122 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl 3-[3-[N-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methyl]carbamoyl]piperidin-1-yl]benzoate | 20.1 mg, 13% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CNC(=O)C1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C25H26ClN3O3S
